US04062952
D. 3-isopropylnitrobenzene
3.56 G. of 4-isopropylnitroaniline is dissolved in 580 ml. of ethanol and stirred. 30.4 Ml. of concentrated sulfuric acid is added dropwise. The reaction mixture is heated to reflux and a solution of 16 g. of sodium nitrite in 25 ml. of water is added dropwise over 5 minutes. Heating is continued for 1 hour and then the reaction mixture is allowed to cool to room temperature. 250 Ml. of water and 1200 ml. of chloroform is added, the layers are separated and the water layer is extracted with an additional 230 ml. of chloroform. The chloroform layers are combined, washed with 250 ml. of water, dried over sodium sulfate and the solvent is removed by distillation through a short vigreau column at atmosphere pressure. The residue is vacuum distilled at from 8.6 to 9.0 mm. of Hg. The fraction taken at 112° to 128° C. is used as is in the next step.

reactant | 4-isopropylnitroaniline | C(C)(C)C1=CC=C(N[N+](=O)[O-])C=C1 | C9H12N2O2
reactant | ethanol | C(C)O | C2H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 3-isopropylnitrobenzene | C(C)(C)C=1C=C(C=CC1)[N+](=O)[O-] | C9H11NO2
